US09334290B2
A suspension of 1H-benzo[d][1,3]oxazine-2,4-dione (5.00 g, 30.7 mmol) and 3-bromo-2-methylaniline (5.70 g, 30.7 mmol) in xylenes (50 mL) was heated at reflux for 8 h. The solvent was removed by distillation and the residue was purified by column chromatography on silica gel (120 g), eluting with EtOAc-hexanes (gradient from 0-50%), to give 2-amino-N-(3-bromo-2-methylphenyl)benzamide as an off-white solid (2.30 g, 24% yield).

reactant | 1H-benzo[d][1,3]oxazine-2,4-dione | 30.7 mmol, 5.00 g | N1C(OC(C2=C1C=CC=C2)=O)=O | C8H5NO3
reactant | 3-bromo-2-methylaniline | 30.7 mmol, 5.70 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
product | 2-amino-N-(3-bromo-2-methylphenyl)benzamide | 2.30 g, 24% yield | NC1=C(C(=O)NC2=C(C(=CC=C2)Br)C)C=CC=C1 | C14H13BrN2O
